US05322681
a) 2,10-Dioxo-4,8-bis(benzyloxymethyl)-13-hydroxy-3,6,9,15-tetraazabicyclo[9.3.1]pentadecane ([12]Dibenzyloxymethyl-dioxo-N4 (hydroxypip))
2,6-Bis(benzyloxymethyl)-1,4,7-triazaheptane (10 mmol), (described in WO-A-89/00557, Example 6 d) and 2,6-bis(ethyloxycarbonyl)-4-hydroxy-piperidine (10 mmol) (described in WO-A-90/08138)is reacted as described in Example 1 a) to yield the title compound.

reactant | 2,6-Bis(benzyloxymethyl)-1,4,7-triazaheptane | 10 mmol | C(C1=CC=CC=C1)OCC(N)CNCC(N)COCC1=CC=CC=C1 | C20H29N3O2
reactant | 2,6-bis(ethyloxycarbonyl)-4-hydroxy-piperidine | 10 mmol | C(C)OC(=O)C1NC(CC(C1)O)C(=O)OCC | C11H19NO5
product | 2,10-Dioxo-4,8-bis(benzyloxymethyl)-13-hydroxy-3,6,9,15-tetraazabicyclo[9.3.1]pentadecane | O=C1C2CC(CC(C(NC(CNCC(N1)COCC1=CC=CC=C1)COCC1=CC=CC=C1)=O)N2)O | C27H36N4O5
